US06172064B2
To a solution of (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-tributylstannyl-2-propene-1-yl)-4-methylazetidin-2-one (400 mg, 0.78 mmol) in 1 mL of dimethylformamide is added 4-bromotoluene (180 mg, 0.93 mmol) and triphenyphosphine palladium (II) dichloride (27 mg, 0.04 mmol). The resulting solution is heated at 80° C. for 18 h, then 1 mL ammonium hydroxide is added. The reaction mixture is poured into saturated sodium chloride solution (20 mL) and extracted wit 1:1 ethyl acetate/hexane (50 mL). The combined organic layers were dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and purified by silica gel chromatography (elution with 3:1 hexanes-ethyl acetate) to provide (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-(4-methylphenyl)-2-propene-1-yl)-4-methylazetidin-2-one as an oil (165 mg, 67% yield).

reactant | (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-tributylstannyl-2-propene-1-yl)-4-methylazetidin-2-one | 0.78 mmol, 400 mg | O1C(CCCC1)ON1C([C@@H]([C@@H]1C)C\C=C\[Sn](CCCC)(CCCC)CCCC)=O
reactant | 4-bromotoluene | 0.93 mmol, 180 mg | BrC1=CC=C(C=C1)C | C7H7Br
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
reactant | sodium chloride | 20 mL | [Cl-].[Na+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | triphenyphosphine palladium (II) dichloride | 0.04 mmol, 27 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-(4-methylphenyl)-2-propene-1-yl)-4-methylazetidin-2-one | 165 mg, 67% yield | O1C(CCCC1)ON1C([C@@H]([C@@H]1C)C\C=C\C1=CC=C(C=C1)C)=O | C19H25NO3
